US07105707B2
The procedure was identical to Example 1, with the exception that 1-octyne (0.590 ml; 0.441 g; 4.00 mmol) was used as a substrate instead of phenylacetylene and 3-methoxybenzonitrile (0.245 ml; 0.266 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 23 h at 65° C. showed the presence of 1.60 mmol (80% yield) of 1-methoxy-3-(1-octynyl)benzene and no remaining 3-methoxybenzonitrile in the reaction mixture.

reactant | 1-octyne | 4.00 mmol, 0.590 ml, 0.441 g | C#CCCCCCC | C8H14
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-methoxybenzonitrile | 2.00 mmol, 0.245 ml, 0.266 g | COC=1C=C(C#N)C=CC1 | C8H7NO
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 1-methoxy-3-(1-octynyl)benzene | 1.60 mmol, 80% yield | COC1=CC(=CC=C1)C#CCCCCCC | C15H20O
